US05639783
Preparation of (s)-3-tert-butoxycarbonylamino-1-furfurylthio-2-heptanone
To a solution of (s)-3-tert-butoxycarbonylamino-1-chloro-2-heptanone (6.54 g) and furfurylmercaptan (3.11 g) in tetrahydrofuran (200 ml) was added 2N sodium hydroxide (13 ml), and the mixture was stirred at room temperature for 17 hours. Then, aqueous sodium hydrogencarbonate was added to the mixture, which was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate and filtered. The filtrate was concentrated and chromatographed on a silica gel column, eluting with hexane containing 10% ethyl acetate to give the titled product (7.82 g).

reactant | (s)-3-tert-butoxycarbonylamino-1-chloro-2-heptanone | 6.54 g | C(C)(C)(C)OC(=O)N[C@H](C(CCl)=O)CCCC | C12H22ClNO3
reactant | furfurylmercaptan | 3.11 g | C(C1=CC=CO1)S | C5H6OS
reactant | sodium hydroxide | 2N, 13 ml | [OH-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (s)-3-tert-butoxycarbonylamino-1-furfurylthio-2-heptanone | 7.82 g, Yield: 92% | C(C)(C)(C)OC(=O)N[C@H](C(CSCC1=CC=CO1)=O)CCCC | C17H27NO4S
